US09290468B2
Step 1: 4-fluoro-5-(4-bromo-2-chlorophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one
To a solution of 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylic acid (100 mg, 0.25 mmol) in t-BuOH (5 mL) was added DPPA (103 mg, 0.37 mmol) followed by triethylamine (76 mg, 0.75 mmol). The mixture was heated under reflux for 3 h and allowed to slowly warm to room temperature. The solvent was removed in vacuo and the resultant crude product was purified by column chromatography on silica gel (petroleum ether/ethyl acetate, 2:1, v/v). The corresponding product was obtained (90 mg, 90.7% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.75 (s, 1H), 8.67 (s, 1H), 7.96 (d, 1H), 7.76 (d, 1H), 7.50 (t, 1H).

reactant | 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylic acid | 0.25 mmol, 100 mg | FC1=C(C(=CC2=C1N=NS2)C(=O)O)NC2=C(C=C(C=C2)Br)Cl | C13H6BrClFN3O2S
reactant | DPPA | 0.37 mmol, 103 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.75 mmol, 76 mg | C(C)N(CC)CC | C6H15N
solvent | t-BuOH | 5 mL | CC(C)(C)O | C4H10O
product | 4-fluoro-5-(4-bromo-2-chlorophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one | 90.7% yield | FC1=C2C(=CC3=C1N=NS3)NC(N2C2=C(C=C(C=C2)Br)Cl)=O | C13H5BrClFN4OS
